US04249015
A solution of cyclooctene (28 g; 254 m. moles) and chloral (36 g; 244 m. moles) in light petroleum (b.p. 80°-100° C.; 200 ml) was stirred and cooled and aluminum chloride (4 g; 30 m. moles) was added. The reaction was allowed to proceed for a period of 1 hour and was then stirred at room temperature for a further 31/2 hours. Ice (150 g) and concentrated hydrochloric acid (50 ml) was added, the mixture extracted with light petroleum (b.p. 40°-60° C.; 2×400 ml) and the combined extracts washed with saturated aqueous sodium carbonate (2×100 ml) and water (100 ml). The dried (Na2SO4) extract was evaporated to give crude 1-(2-cycloocten-1-yl)-2,2,2-trichloroethanol (61.4 g) as a brown oil.

reactant | cyclooctene | 28 g | C1=CCCCCCC1 | C8H14
reactant | chloral | 36 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | aluminum chloride | 4 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 1-(2-cycloocten-1-yl)-2,2,2-trichloroethanol | 61.4 g | C1(C=CCCCCC1)C(C(Cl)(Cl)Cl)O | C10H15Cl3O
